US06914059B2
(6R)-(2S)-methyl-6-(4,4,4-trifluorobutyl-amino)-6,7,8,9-tetrahydro-2H-naphth[2,3-b]-1,4-oxazin-3-one
608 mg (2.014 mmol) of (2R)-methyl-3-oxo-6-(4,4,4-trifluorobutylamino-methyl)-3,4-dihydro-2H-1,4-benzoxazine is stirred with 439.9 mg (2.014 mmol) of di-tert-butyldicarbonate and 303 mg (2.995 mmol) of triethylamine in 15 ml of dichloromethane for four hours at room temperature. The batch is spun in until a dry state is reached, and the residue is put on a column on silica gel (mobile solvent: ethyl acetate/hexane). 727.6 mg (99%) of the desired compound is isolated.

reactant | (2R)-methyl-3-oxo-6-(4,4,4-trifluorobutylamino-methyl)-3,4-dihydro-2H-1,4-benzoxazine | 2.014 mmol, 608 mg | C[C@H]1OC2=C(NC1=O)C=C(C=C2)CNCCCC(F)(F)F | C14H17F3N2O2
reactant | di-tert-butyldicarbonate | 2.014 mmol, 439.9 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 2.995 mmol, 303 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (6R)-(2S)-methyl-6-(4,4,4-trifluorobutyl-amino)-6,7,8,9-tetrahydro-2H-naphth[2,3-b]-1,4-oxazin-3-one | 727.6 mg, 99% | C[C@H]1C(NC2=C(O1)C=C1CCC[C@H](C1=C2)NCCCC(F)(F)F)=O | C17H21F3N2O2
